US05290796
A solution of 1,2,3,4-tetramethyl-3-piperidineethanamine (9.8 g, 53 mmol) in acetonitrile (50 mL) was added dropwise over about 2 hours to a suspension of 1,4-dibromobutane (6.6 mL, 55.7 mmol) and potassium carbonate (26 g, 200 mmol) in acetonitrile (250 mL). The reaction mixture was stirred at room temperature for 24 hours, diluted with ether and the inorganic salts were removed by filtration. The solvent was removed in vacuo and the oily residue was purified by column chromatography on silica gel eluting with 2% isopropylamine/hexanes to afford 5.8 g (46%) of 1,2,3,4-tetramethyl-3-[2-(1-pyrrolidinyl)ethyl]piperidine. The product was dissolved in ether (25 mL) and treated with 6.5N ethereal HCl (10 mL) at 0° C. The mixture was warmed to room temperature, diluted with ether (10 mL) and cooled back to 0° C. to precipitate the dihydrochloride salt. The salt (4.3 g) was isolated as a white solid and had a melting point of 225°-227° C. (dec.) when recrystallized from ether (35 mL).

reactant | 1,2,3,4-tetramethyl-3-piperidineethanamine | 53 mmol, 9.8 g | CN1C(C(C(CC1)C)(CCN)C)C | C11H24N2
reactant | 1,4-dibromobutane | 55.7 mmol, 6.6 mL | BrCCCCBr | C4H8Br2
reactant | potassium carbonate | 200 mmol, 26 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
solvent | ether | CCOCC | C4H10O
product | 1,2,3,4-tetramethyl-3-[2-(1-pyrrolidinyl)ethyl]piperidine | 5.8 g, 46% | CN1C(C(C(CC1)C)(CCN1CCCC1)C)C | C15H30N2
